US04839350
Production of 7-[2-methoxyimino-2-(2-tritylaminothiazol-4-yl)acetamido]-3-[2-(4-methylthiazol-5-yl)vinyl]-3-cephem-4-carboxylic acid p-methoxybenzyl ester (syn-isomer, trans-isomer)
p-Methoxybenzyl 7-amino-3-[2-(4-methylthiazol-5-yl)vinyl]-3-cephem-4-carboxylate (trans-isomer) as prepared by the method of Reference Example 2 as above and 2-(tritylaminothiazol-4-yl)-2-methoxyiminoacetic acid (syn-isomer) were reacted with each other and the reaction product was processed in the same manner as in Example 1 to give the titled compound in a yield of 72%.

reactant | p-Methoxybenzyl 7-amino-3-[2-(4-methylthiazol-5-yl)vinyl]-3-cephem-4-carboxylate | NC1[C@@H]2N(C(=C(CS2)C=CC2=C(N=CS2)C)C(=O)OCC2=CC=C(C=C2)OC)C1=O | C21H21N3O4S2
reactant | 2-(tritylaminothiazol-4-yl)-2-methoxyiminoacetic acid | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)NC=1SC=C(N1)C(C(=O)O)=NOC | C25H21N3O3S
product | 7-[2-methoxyimino-2-(2-tritylaminothiazol-4-yl)acetamido]-3-[2-(4-methylthiazol-5-yl)vinyl]-3-cephem-4-carboxylic acid p-methoxybenzyl ester | yield of 72% | COC1=CC=C(COC(=O)C2=C(CS[C@H]3N2C(C3NC(C(C=3N=C(SC3)NC(C3=CC=CC=C3)(C3=CC=CC=C3)C3=CC=CC=C3)=NOC)=O)=O)C=CC3=C(N=CS3)C)C=C1 | C46H40N6O6S3
